US06136807
Preparation of Isooctyl Acrylate/2-Hydroxyethyl acrylate/Elvacite™ 1020 (59/39/2) Copolymer
This copolymer was prepared using a procedure similar to the one described above for isooctyl acrylate/N-vinyl-2-pyrrolidone/Elvacite™ 1020. The inherent viscosity of the polymer in ethyl acetate was 0.69 dl/g.

reactant | isooctyl acrylate N-vinyl-2-pyrrolidone | C(C=C)(=O)OCCCCCC(C)C.C(=C)N1C(CCC1)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Isooctyl Acrylate 2-Hydroxyethyl acrylate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)OCCO | InChI=1S/C11H20O2.C5H8O3/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-5(7)8-4-3-6/h4,10H,1,5-9H2,2-3H3;2,6H,1,3-4H2
